US07553854B2
Step 3. Synthesis of 4-(4-chloro-2-(cyclohexylmethylamino)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide
To the solution of 4-(2-amino-4-chlorobenzo[d]thiazol-6-yloxy)-N-methylpicolinamide (30 mg, 0.089 mmol, 1.0 eq) in 2 mL of NMP was added bromomethyl cyclohexane (18 μL, 0.134 mmol, 1.5 eq) and potassium carbonate (36 mg, 0.267 mmol, 3.0 eq) at room temperature. The reaction mixture was stirred at 80° C. for 2 hours and thereafter purified via reverse phase HPLC. LC/MS (m/z) [431.0] (MH+)

reactant | 4-(2-amino-4-chlorobenzo[d]thiazol-6-yloxy)-N-methylpicolinamide | 0.089 mmol, 30 mg, 1.0 eq | NC=1SC2=C(N1)C(=CC(=C2)OC2=CC(=NC=C2)C(=O)NC)Cl | C14H11ClN4O2S
reactant | bromomethyl cyclohexane | 0.134 mmol, 18 μL, 1.5 eq | BrCC1CCCCC1 | C7H13Br
reactant | potassium carbonate | 0.267 mmol, 36 mg, 3.0 eq | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 4-(4-chloro-2-(cyclohexylmethylamino)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide | ClC1=CC(=CC2=C1N=C(S2)NCC2CCCCC2)OC2=CC(=NC=C2)C(=O)NC | C21H23ClN4O2S
